* tb_ls_logic.spice — Logic function, output levels, metastability check
* Block 06: Level Shifter — TT 27C, BVDD=7V nominal
*
.include design.cir
.lib /home/ubuntu/pdk/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.option method=gear reltol=1e-4

* Supplies
Vsvdd svdd 0 2.2
Vbvdd bvdd 0 7.0
Vpvdd pvdd 0 5.0

* Load capacitors
Cload_up out_up 0 1p
Cload_dn out_dn 0 1p

* Input stimulus
Vin_up in_up 0 PULSE(0 2.2 50n 1n 1n 200n 400n)
Vin_dn in_dn 0 PULSE(0 5.0 50n 1n 1n 200n 400n)

* DUT
Xup in_up out_up bvdd svdd 0 level_shifter_up
Xdn in_dn out_dn pvdd svdd 0 level_shifter_down

.tran 0.1n 800n

* Measure output levels
.meas tran lth_high MAX v(out_up) FROM=100n TO=250n
.meas tran lth_low  MIN v(out_up) FROM=300n TO=450n
.meas tran htl_high MAX v(out_dn) FROM=100n TO=250n
.meas tran htl_low  MIN v(out_dn) FROM=300n TO=450n

* Check metastability: 70ns after rising edge, must be near rail
.meas tran lth_at_120n FIND v(out_up) AT=120n
.meas tran lth_at_320n FIND v(out_up) AT=320n
.meas tran htl_at_120n FIND v(out_dn) AT=120n
.meas tran htl_at_320n FIND v(out_dn) AT=320n

.control
run

* Compute margins
let lth_margin = lth_high - (7.0 - 0.2)
let htl_margin = htl_high - (2.2 - 0.2)

* Metastability check: settled within 70ns of edge
* High state must be > supply - 0.5V, low state must be < 0.5V
let meta_ok = 1

* Check all settled values
if lth_at_120n < 6.5
  let meta_ok = 0
end
if lth_at_320n > 0.5
  let meta_ok = 0
end
if htl_at_120n < 1.7
  let meta_ok = 0
end
if htl_at_320n > 0.5
  let meta_ok = 0
end

echo "lth_out_high_margin_V:" "$&lth_margin"
echo "lth_out_low_V:" "$&lth_low"
echo "htl_out_high_margin_V:" "$&htl_margin"
echo "htl_out_low_V:" "$&htl_low"
echo "no_metastable:" "$&meta_ok"

wrdata waveform_logic.dat v(in_up) v(out_up) v(in_dn) v(out_dn)

quit
.endc

.end
